US05021576
A. 2,6-Dichloroacetanilide
To a mechanically stirred solution of 2,6-dichloroaniline (76 g, 0.047 mol) in 60 mL of glacial acetic acid is added dropwise acetyl chloride (36 mL, 0.5 mol). After the addition is complete, the reaction mixture is heated at 90° C. for 20 minutes. The solution is poured into ice water (500 mL), forming a white precipitate. The solids are filtered, washed with water and dried to give the product (91.8 g, 96%, white solid, m.p. 179°-180° C., lit. m.p. 180°-181° C. from glacial acetic acid).

reactant | 2,6-dichloroaniline | 0.047 mol, 76 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | acetyl chloride | 0.5 mol, 36 mL | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2,6-Dichloroacetanilide | CC(=O)NC1=C(C=CC=C1Cl)Cl | C8H7Cl2NO
